US07138432B1
To a solution of 59.7 g (0.135 mol) of {[4-(3-chloro-propoxy)-benzenesulfonyl]-(4-methoxybenzyl)-amino}-acetic acid methyl ester in 500 ml of MeOH, 500 ml of THF and 200 ml of H2O, 11.3 g of LiOH:H2O (0.27 mol) is added at 0–5° C. The mixture is allowed to warm to r.t. and stirred for 4 h. The reaction mixture is concentrated under reduced pressure and diluted with H2O and AcOEt. After acidifying with 2N HCl at 0–5° C., the mixture is extracted with AcOEt. The combined extracts are washed with brine and concentrated under reduced pressure to give {[4-(3-chloro-propoxy)-benzenesulfonyl]-(4-methoxy-benzyl)-amino]-acetic acid; NMR (CDCl3): 2.25–2.29 (m, 2H), 3.75 (t, 2H, J=6 Hz), 3.79 (s, 3H), 3.91 (s, 2H), 4.19 (t, 2H, J=6 Hz), 4.38 (s, 2H), 6.84 (d, 2H, J=8.56 Hz), 6.99 (d, 2H, J=8.56 Hz), 7.13 (d, 2H, J=9.04 Hz), 7.82 (d, 2H, J=9.04 Hz).

reactant | {[4-(3-chloro-propoxy)-benzenesulfonyl]-(4-methoxybenzyl)-amino}-acetic acid methyl ester | 0.135 mol, 59.7 g | COC(CN(CC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)OCCCCl)=O | C20H24ClNO6S
reactant | LiOH | 11.3 g | [Li+].[OH-]
solvent | MeOH | 500 ml | CO | CH4O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | H2O | 200 ml | O | H2O
solvent | H2O | 0.27 mol | O | H2O
product | {[4-(3-chloro-propoxy)-benzenesulfonyl]-(4-methoxy-benzyl)-amino]-acetic acid | ClCCCOC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)OC)CC(=O)O | C19H22ClNO6S
